* ==========================================================================
* @part: LM723
* @family: regulators
* @source: Bordodynov
* @url: https://github.com/kicad-spice-library/KiCad-Spice-Library (Bordodynov LTspice library)
* @origin-file: KiCad-Spice-Library/Models/uncategorized/Bordodynovs Electronics Lib/sub/Lm723.sub
* @retrieved: 2026-09-24
* @licence: no licence or copyright text in the vendor file (terms unknown)
* @added-by: garv.singh
* @pins: LM723: 2 3 4 5 6 7 9 10 11 12 13
* Definitions below are copied verbatim from the origin file.
* ==========================================================================

* ---- original file header ----
* From National Linear.lib
*---------------------------------------------------------------LM723
* connections:
*              NC
*              | current limit
*              | | current sense
*              | | | inverting input
*              | | | | non-inverting input
*              | | | | | Vref
*              | | | | | | Vcc-
*              | | | | | | | NC 
*              | | | | | | | | Vz 
*              | | | | | | | | | Vout  
*              | | | | | | | | | |  Vc    
*              | | | | | | | | | |  |   Vcc+         
*              | | | | | | | | | |  |  |  freq. compensation
*              | | | | | | | | | |  |  |  |  NC
* ---- end of original file header ----

.SUBCKT LM723    2 3 4 5 6 7   9 10 11 12 13 
*
* Note: This model is based on the National LM723 voltage
*       regulator.  All characterization is from data sheet
*       information.  The pin configuration corresponds to
*       the dual-in-line package.  Therefore, it includes
*       an internal 6.2 volt zener diode between Vout and Vz
*       In the model, GIee & GIcc adjust the short circuit
*       current limit and the standby current.  Rsb and the
*       temperature coefficient on RIee also affect the
*       standby current.  Bf and the transresistance term
*       on HVref adjust the low frequency output impedence
*       and the load regulation.  Rlnreg controls the line
*       regulation and ripple rejection.  Rref and its
*       temperature coefficient determine the average
*       temperature coefficient with respect to the output
*       voltage.
*
* Standby Current Correction
*
Rsb 12 7 300k
*
* Error Amplifier
*
Rlnreg 12 13 4meg
*Icc 12 13 DC 583ua
*Iee 20  7 DC 1166ua
Iee   0 24 1166ua
RIee 24 0 1 TC=4E-3
GIee (20,7) (24,0) 1.0
GIcc (12,13) (24,0) 0.5
Q5 12 5 20 Npn1
Q4 13 4 20 Npn1
*
* Voltage Reference
*
HVref 22 7 POLY(1) Vmon 7.15 0.0
Rref 22 6 15ohm TC=0.01
*
* Output Stage
*
Q1 12 13 21 Npn1
Q2 11 21 23 Npn1
Vmon 23 10 DC 0.0
Re 21 10 15k
.MODEL Npn1 NPN (Bf=55 Is=1E-14)
*
* Frequency Compensation, Current Limit, Current Sense
*
Q3 13 2 3 Npn1
R2 2  7 1.0e12
R3 3  7 1.0e12
*
* Zener Diode (6.2V) to pin 9
*
Dz 9 10 Dz
Rz 9  7 1.0e12
.MODEL Dz D (Is=0.05p Rs=4 Bv=5.79 Ibv=0.05u)
*
.ENDS
